US05962682
3.59 g of 3-allyloxy-4-(2-methoxy-phenoxy)-5-nitro-benzonitrile were dissolved in ethanol (120 ml), a solution of tin dichloride dihydrate (8.55 g) in 37% HCl (25 ml) was added dropwise thereto at room temperature and the mixture was subsequently stirred at room temperature for 12 hours. The mixture was poured on to ice-water, adjusted to pH 7 and the product was extracted with ethyl acetate. After usual processing of the organic phase there was obtained 3-allyloxy-5-amino-4-(2-methoxy-phenoxy)-benzonitrile as a white solid.

reactant | 3-allyloxy-4-(2-methoxy-phenoxy)-5-nitro-benzonitrile | 3.59 g | C(C=C)OC=1C=C(C#N)C=C(C1OC1=C(C=CC=C1)OC)[N+](=O)[O-] | C17H14N2O5
reactant | tin dichloride dihydrate | 8.55 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | HCl | 25 ml | Cl | ClH
product | 3-allyloxy-5-amino-4-(2-methoxy-phenoxy)-benzonitrile | C(C=C)OC=1C=C(C#N)C=C(C1OC1=C(C=CC=C1)OC)N | C17H16N2O3
